US04748163
DL-α-Amino-α-(2-aminobenzothiazol-5-yl)acetic acid (24a)
23.6 g (0.095 mol) of 5-(2-aminobenzothiazol-5-yl)-2,4-imidazolidinedione are cleaved with 22.7 g (0.95 mol) of LiOH--dissolved in 1,000 m of water--in analogy to Example 1d.

reactant | 5-(2-aminobenzothiazol-5-yl)-2,4-imidazolidinedione | 0.095 mol, 23.6 g | NC=1SC2=C(N1)C=C(C=C2)C2C(NC(N2)=O)=O | C10H8N4O2S
reactant | water | O | H2O
product | α-Amino-α-(2-aminobenzothiazol-5-yl)acetic acid | NC(C(=O)O)C=1C=CC2=C(N=C(S2)N)C1 | C9H9N3O2S
